US08202863B2
A mixture of 2-pyridin-3-yl-pyrimidine-5-carboxylic acid (110 mg, 0.55 mmol) 1-hydroxybenzotriazole (83.5 mg, 0.62 mmol) and PS-DCC (568 mg, 1.28 mmol/g, 0.73 mmol) in DMF (8 mL) is shaken at room temperature for 15 min, and aniline (34 mg, 0.36 mmol) is added. After shaking at room temperature for 18 hours, PS-trisamine (436 mg, 3.75 mmol/g, 1.64 mmol) is added and the mixture is continually shaken at room temperature for 18 hours. The solid is filtered and washed with DCM. The filtrate is concentrated to yield 2-pyridin-3-yl-pyrimidine-5-carboxylic acid phenylamide (41.2 mg, 41%) as a solid. MS: 277 (M+H).

reactant | 2-pyridin-3-yl-pyrimidine-5-carboxylic acid | 0.55 mmol, 110 mg | N1=CC(=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | DCC | 0.73 mmol, 568 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aniline | 0.36 mmol, 34 mg | NC1=CC=CC=C1 | C6H7N
reactant | trisamine | 1.64 mmol, 436 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-pyridin-3-yl-pyrimidine-5-carboxylic acid phenylamide | 41.2 mg, 41% | C1(=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C=1C=NC=CC1 | C16H12N4O
